2137-11-29 08:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, acute hepatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 21yoF 22 weeks pregnant transferred with liver failure
   (?tylenol/EtOH), intubated for poor mental status, now with INR and
   transaminases now trending down
   24 Hour Events:
   Increasing secretions, CXR with ?VAP
 started on vanco/cefepime
   EEG done, results pending
   OB saw, low concern for preeclampsia
   Disconnected from vent, then on full support, back to PS o/n
   Now has a cuff leak (none yesterday)
   Tachy o/n to 120s- got 500 cc bolus, and then restared on midazolam,
   HRs improved
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2137-11-28**] 11:05 AM
   Vancomycin - [**2137-11-28**] 09:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-11-28**] 10:06 AM
   Midazolam (Versed) - [**2137-11-29**] 02:00 AM
   Fentanyl - [**2137-11-29**] 04:00 AM
   Other medications:
   Folic acid
   Thiamine
   Famotidine
   Heparin SC
   MVI
   Colace
   Chlorhexidine
   Lactulose TID
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2137-11-29**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 110 (93 - 121) bpm
   BP: 111/63(80) {98/55(72) - 149/93(116)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 96% on 50%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,266 mL
                                                                  1,034 mL
   PO:
             TF:
                                                                    154 mL
   IVF:
                                                                  1,902 mL
                                                                    944 mL
   Blood products:
   Total out:
                                                                  3,855 mL
                                                                    515 mL
   Urine:
                                                                  3,855 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,589 mL
                                                                    519 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 424 (380 - 563) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 79
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.49/34/174/23/3
   Ve: 8.7 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen: intubated, sedated, grimaces, not following commands
   Chest: CTA anteriorly
   CV: tachy, regular
   Abd: soft, gravid
   Extr: warm, 1+ UE and LE edema
   Labs / Radiology
   9.0 g/dL
   204 K/uL
   100 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.3 mEq/L
   5 mg/dL
   105 mEq/L
   136 mEq/L
   26.2 %
   8.9 K/uL
        [image002.jpg]
                            [**2137-11-27**]  05:45 AM
                            [**2137-11-27**]  05:56 AM
                            [**2137-11-27**]  10:16 AM
                            [**2137-11-27**]  02:59 PM
                            [**2137-11-27**]  11:56 PM
                            [**2137-11-28**]  03:44 AM
                            [**2137-11-28**]  04:01 AM
                            [**2137-11-28**]  06:36 AM
                            [**2137-11-29**]  03:36 AM
                            [**2137-11-29**]  03:58 AM
   WBC
   7.6
   8.1
   8.8
   8.9
   Hct
   28.5
   26.5
   26.9
   26.2
   Plt
   [**Telephone/Fax (3) 10051**]04
   Cr
   0.4
   0.4
   0.3
   0.3
   TCO2
   19
   21
   23
   24
   24
   27
   Glucose
   106
   102
   100
   Other labs: PT / PTT / INR:15.1/28.2/1.3, ALT / AST:221/41, Alk Phos /
   T Bili:82/4.9, Amylase / Lipase:154/244, Differential-Neuts:67.0 %,
   Band:0.0 %, Lymph:21.0 %, Mono:3.0 %, Eos:5.0 %, Fibrinogen:250 mg/dL,
   Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL, LDH:200 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.3 mg/dL, PO4:3.0 mg/dL
   ABG: 7.49/34/174 on 50%
   Micro:
   Sputum [**11-28**]:
  GRAM STAIN (Final [**2137-11-29**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   Urine cx: pending
   Studies:
   CXR [**11-28**]:
   Portable AP chest radiograph was reviewed in comparison to prior study
   obtained the same day earlier at 05:09 a.m.
   The ET tube tip is 4 cm above the carina. The NG tube tip is in the
   stomach.
   There is no change in the left retrocardiac consolidation with air
   bronchogram
   that might be consistent with infectious process. There is slight
   interval
   improvement of pulmonary edema which is currently mild to moderate.
   Bilateral
   pleural effusions are present.
   Assessment and Plan
   21yoF transferred with liver failure (now INR, LFTs, bilirubin trending
   down), likely multifactorial in nature with tylenol, ETOH; obstretic
   complications also considered such as eclampsia, HELLP syndrome.
   1.       Hepatic Failure:  markers improving; multifactorial etiologies
   as above.  Normal liver US with dopplers.  Per OB, unlikely related to
   preeclampsia
   - increase lactulose to QID
   - f/up viral hepatitis studies
   2.       Neuro:  Altered mental status etiologies: hepatic
   encephalopathy, ETOH withdrawal, mind-altering substances
   EEG done, read pending.  [**Doctor First Name 92**]/lipase trending down.
   - continue lactulose
   - change to propofol, d/c versed, wean fentanyl
   - consider MRI brain if not improving today
   3.       Respiratory Failure:  Intubated in setting of confusion, acute
   hypoxemia possibly in setting of sedation.  Now with copious
   secretions, CXR with ?PNA, started abx for VAP yesterday.
   - continue vanco/cefepime
   - f/up sputum culture
   - has not tolerated attempts to wean sedation, developing significant
   agitation. Possible that ETT aggravating agitation and sedation needs,
   compounded by poor hepatic clearance. Would favor moving toward
   4.       OB:  Early for pre-eclampsia (gestational age 22weeks)
   - monitor BP, mental status
   - f/up OB recs
   5.       ETOH: Picture will be complicated by ETOH withdrawal
   - currently on thiamine, MVI
   - d/c versed, ativan boluses prn w/d
   - social work consult
   - will need psych consult once extubated
   ICU Care
   Nutrition:  TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-11-26**] 11:10 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: H2 blocker
   VAP: HOB up, chlorhexidinee
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 55 min CCT

2137-11-30 08:09:00 Physician Attending Progress Note
Chief Complaint: liver failure, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 21yoF 22 weeks pregnant transferred with liver failure
   (?tylenol/EtOH), intubated for poor mental status, now with INR and
   transaminases now trending down
   24 Hour Events:
   1. Extubated yesterday, increased WOB and intermittent stridor
   post-extubation, improved with racemic epi nebs and solumedrol 60 x 1
   2. NAC d/ced, liver team signed off
   3. Started on ativan PRN for WD
   4. Diuresed prior to extubation
                                                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2137-11-29**] 10:00 PM
   Vancomycin - [**2137-11-30**] 08:07 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2137-11-29**] 08:53 AM
   Midazolam (Versed) - [**2137-11-29**] 08:54 AM
   Furosemide (Lasix) - [**2137-11-29**] 03:00 PM
   Lorazepam (Ativan) - [**2137-11-30**] 01:10 AM
   Heparin Sodium (Prophylaxis) - [**2137-11-30**] 04:00 AM
   Other medications:
   Folate
   Thiamine
   Famotidine
   Lactulose 45 ml Q4 hours
   Heparin 5000 SC TID
   MVI po daily
   Colace
   Vanco (st [**11-28**])
   Cefepime (st [**11-28**])
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-11-30**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 105 (104 - 132) bpm
   BP: 142/89(107) {101/63(78) - 143/93(111)} mmHg
   RR: 28 (0 - 40) insp/min
   SpO2: 98% on 4L NC
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,925 mL
                                                                    281 mL
   PO:
             TF:
   IVF:
                                                                  1,835 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  4,315 mL
                                                                  1,245 mL
   Urine:
                                                                  4,315 mL
                                                                  1,245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,390 mL
                                                                   -964 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 396 (396 - 396) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.54/31/134/24/5
   Ve: 9.1 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Gen:
   Neck:
   Chest:
   CV:
   Abd: soft, gravid
   Extr:
   Labs / Radiology
   9.7 g/dL
   222 K/uL
   126 mg/dL
   0.3 mg/dL
   24 mEq/L
   3.7 mEq/L
   6 mg/dL
   106 mEq/L
   139 mEq/L
   28.2 %
   12.5 K/uL
        [image002.jpg]
                            [**2137-11-28**]  03:44 AM
                            [**2137-11-28**]  04:01 AM
                            [**2137-11-28**]  06:36 AM
                            [**2137-11-29**]  03:36 AM
                            [**2137-11-29**]  03:58 AM
                            [**2137-11-29**]  01:51 PM
                            [**2137-11-29**]  05:16 PM
                            [**2137-11-29**]  06:00 PM
                            [**2137-11-30**]  05:54 AM
                            [**2137-11-30**]  06:03 AM
   WBC
   8.8
   8.9
   12.5
   Hct
   26.9
   26.2
   28.2
   Plt
   [**Telephone/Fax (3) 10056**]
   Cr
   0.3
   0.3
   0.3
   TCO2
   24
   24
   27
   27
   27
   27
   27
   Glucose
   102
   100
   126
   Other labs: PT / PTT / INR:15.1/28.2/1.3, ALT / AST:182/38, Alk Phos /
   T Bili:98/4.6, Amylase / Lipase:154/538, Differential-Neuts:67.0 %,
   Band:0.0 %, Lymph:21.0 %, Mono:3.0 %, Eos:5.0 %, Fibrinogen:250 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:201 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Hepatitis studies: only + is HBV surface Ab (Ag negative)
   Vanco: 6.7
   Sputum Cx [**11-28**]:
   GRAM STAIN (Final [**2137-11-29**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):    CULTURE TOO YOUNG TO EVALUATE.
   Assessment and Plan
   21yoF transferred with liver failure (now INR, LFTs, bilirubin trending
   down), likely multifactorial in nature with tylenol, ETOH; obstretic
   complications also considered such as eclampsia, HELLP syndrome.
   1.       Hepatic Failure:  markers improving; multifactorial etiologies
   as above.  Normal liver US with dopplers.  Per OB, unlikely related to
   preeclampsia
   - increase lactulose to QID
   - f/up viral hepatitis studies
   2.       Neuro:  Altered mental status etiologies: hepatic
   encephalopathy, ETOH withdrawal, mind-altering substances
   EEG done, read pending.  [**Doctor First Name 92**]/lipase trending down.
   - continue lactulose
   - change to propofol, d/c versed, wean fentanyl
   - consider MRI brain if not improving today
   3.       Respiratory Failure:  Intubated in setting of confusion, acute
   hypoxemia possibly in setting of sedation.  Now with copious
   secretions, CXR with ?PNA, started abx for VAP 2 days ago.  WBCs up, no
   fever, ?[**1-7**] steroids.
   - continue vanco/cefepime
   - f/up sputum culture
   - has not tolerated attempts to wean sedation, developing significant
   agitation. Possible that ETT aggravating agitation and sedation needs,
   compounded by poor hepatic clearance. Would favor moving toward
   4.       OB:  Early for pre-eclampsia (gestational age 22weeks)
   - monitor BP, mental status
   - f/up OB recs
   5.       ETOH: Picture will be complicated by ETOH withdrawal
   - currently on thiamine, MVI
   - d/c versed, ativan boluses prn w/d
   - social work consult
   - will need psych consult once extubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-11-29**] 12:18 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: H2 blocker
   Communication:  with patient, will update family
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 min CCT

2137-12-01 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Weened to room air.
   Psych saw her and she's still denying overdose but still a little
   confused, will follow.
   Growing Coag + Staph in sputum.
   Started on clears with ok intake.
   HR up throughout the day, improved with 1 dose of ativan, ? withdrawal.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-11-30**] 08:00 PM
   Cefipime - [**2137-11-30**] 10:08 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-11-30**] 10:00 AM
   Lorazepam (Ativan) - [**2137-12-1**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-1**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 92 (92 - 135) bpm
   BP: 104/60(77) {104/58(73) - 148/99(110)} mmHg
   RR: 26 (15 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,187 mL
                                                                     72 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,627 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,915 mL
                                                                    690 mL
   Urine:
                                                                  2,915 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -728 mL
                                                                   -618 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   325 K/uL
   8.7 g/dL
   101 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   6 mg/dL
   108 mEq/L
   139 mEq/L
   26.6 %
   9.7 K/uL
        [image002.jpg]
                            [**2137-11-28**]  04:01 AM
                            [**2137-11-28**]  06:36 AM
                            [**2137-11-29**]  03:36 AM
                            [**2137-11-29**]  03:58 AM
                            [**2137-11-29**]  01:51 PM
                            [**2137-11-29**]  05:16 PM
                            [**2137-11-29**]  06:00 PM
                            [**2137-11-30**]  05:54 AM
                            [**2137-11-30**]  06:03 AM
                            [**2137-12-1**]  05:06 AM
   WBC
   8.9
   12.5
   9.7
   Hct
   26.2
   28.2
   26.6
   Plt
   [**Telephone/Fax (3) 10084**]
   Cr
   0.3
   0.3
   0.3
   TCO2
   24
   24
   27
   27
   27
   27
   27
   Glucose
   100
   126
   101
   Other labs: PT / PTT / INR:13.0/23.1/1.1, ALT / AST:134/39, Alk Phos /
   T Bili:83/3.2, Amylase / Lipase:154/538, Differential-Neuts:67.0 %,
   Band:0.0 %, Lymph:21.0 %, Mono:3.0 %, Eos:5.0 %, Fibrinogen:250 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:190 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   21 yo F with 22 week pregnancy, found down with transaminitis, now s/p
   extubation with improving mental status.
   # VAP: Sputum growing coag positive staph, sensitivites pending.
   Afebrile now and looks notoxic. CXR with findings consistent with
   possibly early pneumonia.
   - Continue Vanco/Cefepime, will narrow coverage following finalization
   of sputum cultures.
   #  AMS: Mental status markedly improved post extubation. Likely med
   related from toxic from medications.
   - follow neuro exam, awaiting EEG results
   - increase lactulose titrated to bowel movement
   .
   # Hepatitis: LFts continue to improve. Patient now acknowledging
   tylenol and alcohol use. NAC off. Hepatitis serologies, CMV, EBV, [**Doctor First Name **]
   and smooth muscle unremarkable.  HSV pending and will need to be
   followed up.
   .
   # Pancreatitis:  Lipase elevated on admission, but had trended
   [**Last Name (un) 10088**].  Had suspected secondary to propofol.  Now rising again,
   although patient denying any abdominal pain.
   - check TG
   - continue to trend.  No clear explanation, without any meds associated
   with pancreatitis save for one dose of lasix on admission.  If
   continues to worsen or new abdominal pain, will need to discuss with
   hepatology.
   .
   # Substance abuse: Severe w/ clear endangering of pregnancy
   - SW consult and Psych consult
   - patient on 1:1
   .
   # Pregnancy: Fetus appears normal on u/s. Start prenatal vitamins.
   Appreciate OB recs. Patient with danger of both ammonia toxicity and
   fetal alcohol syndrome.  Patiient describes desire to terminate
   pregnancy.  Has discussed with [**Doctor Last Name 10031**], and will have procedure on
   Tuesday.  Discussed with both patient and HCP.
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: famotidine, heparin sc, bowel regimen
   # ACCESS: PIV, A-line
   # CODE:  Full confirmed
   # CONTACT:  [**Name (NI) **] (Father) [**Telephone/Fax (1) 10017**]. [**Doctor First Name **] [**Telephone/Fax (1) 10018**]
   # DISPO:  Call out today to medicne floors
   ICU Care
   Nutrition:
   Comments: Clears advancing to regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-11-30**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-12-01 10:36:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Weaned to RA. seen by psychiatry not yet clear to make decisions. Seen
   by OB this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2137-11-30**] 10:08 PM
   Vancomycin - [**2137-12-1**] 08:05 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2137-12-1**] 01:20 AM
   Other medications:
   folic acid, thiamine, famotidine, heparin, MVI, colace, vancomycin,
   cefepime, lactulose, Mg, K.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-1**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 99 (87 - 135) bpm
   BP: 125/77(96) {104/58(73) - 148/99(110)} mmHg
   RR: 27 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,187 mL
                                                                    403 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,627 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  2,915 mL
                                                                    890 mL
   Urine:
                                                                  2,915 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -728 mL
                                                                   -487 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   325 K/uL
   101 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.4 mEq/L
   6 mg/dL
   108 mEq/L
   139 mEq/L
   26.6 %
   9.7 K/uL
        [image002.jpg]
                            [**2137-11-28**]  04:01 AM
                            [**2137-11-28**]  06:36 AM
                            [**2137-11-29**]  03:36 AM
                            [**2137-11-29**]  03:58 AM
                            [**2137-11-29**]  01:51 PM
                            [**2137-11-29**]  05:16 PM
                            [**2137-11-29**]  06:00 PM
                            [**2137-11-30**]  05:54 AM
                            [**2137-11-30**]  06:03 AM
                            [**2137-12-1**]  05:06 AM
   WBC
   8.9
   12.5
   9.7
   Hct
   26.2
   28.2
   26.6
   Plt
   [**Telephone/Fax (3) 10084**]
   Cr
   0.3
   0.3
   0.3
   TCO2
   24
   24
   27
   27
   27
   27
   27
   Glucose
   100
   126
   101
   Other labs: PT / PTT / INR:13.0/23.1/1.1, ALT / AST:134/39, Alk Phos /
   T Bili:83/3.2, Amylase / Lipase:154/862, Differential-Neuts:67.0 %,
   Band:0.0 %, Lymph:21.0 %, Mono:3.0 %, Eos:5.0 %, Fibrinogen:250 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:190 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Microbiology: sputum with coag positive staph
   Assessment and Plan
 PREGNANCY: OB following. Likely purusing elective d&C tomorrow.
 LIVER FUNCTION ABNORMALITIES: likely related to tylenol/vicodin
   overdose
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]): resolved now treating for
   aspiration pneumonia growing staph aureus senses pending.
 HYPOXEMIA: on RA now.
 ALCOHOL ABUSE: on ativan prn , no clear evidence of withdrawal.
 Psych: ? depression, vs suicide.. will start her on suicide
   precautions after d/w psych, now admits to overdose.
 Elevated lipase: trend, patient asymptomatic, check TG level.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-11-30**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I saw and examined the pt today, and was present with the ICU team for
   the key portions of services provided. I agree with Dr. [**First Name (STitle) 8379**]
s note
   as outlined above, including assessment and plan. 21 yo female with IUP
   at ~22 wks admitted with acute hepatic failure due to medications.
   Post-extubation respiratory status has greatly improved over the past
   day, remains on Cef/Vanc for +Staph/aspiration but will further tailor
   abx once sensitivities return. Appears appropriate for floor transfer.
   Psych and OB following.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2137-12-1**] 14:21 ------